Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
zolpidem, demerol
 
Attending: ___.
 
Chief Complaint:
weakness 

 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
Ms. ___ is a ___ female with the past
medical history noted below who presents from home with 
weakness,
lightheadedness. Pt gives incomplete hx due to dementia. At
present denying abdominal pain, chest pain, dyspnea,
lightheadedness, fevers, malaise. Only complaint is right knee
pain, which has been operated on remotely. Unsure of what she
takes at home for pain.

Discussed with son over the phone, ___:
Generally has dementia with about a year and a half of decline.
Poor Po intake yesterday morning and feeling lightheaded, shaky.
Patient concerned she had low blood sugar but didn't have
glucometer, and she ate. Some confusion. 

Per son, PCA coming every day from ___. Day care agency is 
being
set up. Son helps with medication. 
 
In ED: 
VS significant for HR in the 120s recorded; 90s at rest on
monitor and up to 130s ambulating; sbp 110-160s RA
Labs: cbc wnl, bmp wnl, INR 1.5 (on Coumadin), UA with tr blood
and prt
Got home meds + 25 PO metop, 500mL NS
CTH: extensive microvascular dss unchanged; no acute process
CT a/p: no acute abnormality, diverticulosis without
diverticulitis
 
Past Medical History:
h/o Afib on Warfarin  
DM  
HTN  
CHF  
Dementia  
osteoarthritis  
hyperlipidemia  
GERD  
osteoporosis. 
-___: mild diverticulitis treated with ciprofloxacin and 
metronidadzole. 
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
ADMISSION:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress; AOx1 (person, knows
she's in a hospital but unsure which one)
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  JVP at 6cmH2O
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; right knee with
longitudinal surgical scar, well healed; no effusion, mild 
medial
joint line tenderness
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
===============================================================
DISCHARGE: 
GENERAL: Alert, NAD
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: rrr, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM.
MSK: Neck supple, moves all extremities
SKIN: No rashes or ulcerations noted
NEURO: Alert, face symmetric, speech fluent, moves all limbs,
sensation to light touch grossly intact throughout.
PSYCH: very pleasant, appropriate affect

 
Pertinent Results:
CT abd/pelvis ___:
1. No acute abnormality within the imaged abdomen and pelvis. 
2. Diverticulosis without evidence of acute diverticulitis. 
3. Incompletely characterized 9 mm hypoattenuating mass in the
upper pole of 
the right kidney may reflect an RCC or cyst with proteinaceous
contents, 
similar in appearance to ___ CT. 
4. 1.2 cm thickened endometrium is similar to prior CT. 
5. Extensive atherosclerotic disease. 
6. Diverticulosis without evidence of acute diverticulitis. 

CXR ___:
Patient rotated to the left.  Subtle posterior basilar opacity
seen on the  lateral view raises concern for pneumonia and/or
atelectasis. 

CT head w/o contrast ___:
1. No acute intracranial process. 
2. Chronic lacunar infarcts, chronic small vessel ischemic
changes. 

EKG 917, my interpretation: Right bundle branch block, irregular
rhythm, ventricular rate 89, QTC 402, no ST elevation noted.

___ 08:03PM   GLUCOSE-106* UREA N-24* CREAT-1.0 SODIUM-139 
POTASSIUM-4.6 CHLORIDE-98 TOTAL CO2-27 ANION GAP-14
___ 08:03PM   ALT(SGPT)-28 AST(SGOT)-39 ALK PHOS-222* TOT 
BILI-0.4
___ 08:03PM   25OH VitD-38
___ 08:03PM   TSH-2.8
___ 08:03PM   %HbA1c-6.3* eAG-134*
 
Brief Hospital Course:
# Patient presented with weakness, lightheadedness: Unclear 
exact nature of Sx or degree, as pt poorly able to report. Son 
thinks that pt was somewhat anxious and he was concerned for 
hypoglycemia, though glucose never taken. 
Differential would include hypoglycemia, volume depletion, 
hypotension including orthostatic hypotension, bradycardia or 
other cardiac arrhythmia.  Patient apparently has had poor PO 
intake and does take long-acting glipizide so hypoglycemia is 
certainly a possibility.  No blood sugar was checked at the time 
of her dizziness so cannot know for sure.  She is on an AV nodal 
blocker and potentially could be experiencing symptomatic 
bradycardia related to this, she is also on amlodipine.  
Telemetry showed occasional episodes of asymptomatic rapid A. 
fib with ventricular rate in the 120s, however in general her 
heart rate runs in the ___.  Systolic blood pressures have 
been in the 120s-130s, we held her home amlodipine to allow some 
permissive hypertension in the setting of elderly patient with 
dizziness. No s/s infection. 
- volume given
- Held glipizide inpatient and on discharge.
- will hold amlodipine and allow some permissive hypertension
- halved her home Metoprolol on discharge

#abdominal pain: appears chronic in nature, intermittent, not 
related to food intake.  CT scan reviewed.  LFTs normal.  Last 
bowel movement was yesterday and she had 3 so a low concern for 
constipation.  No hernia detected. No bowel changes. Tolerating 
diet. No further workup indicated.

#social: Pt living with son who has to work long hours. Son well 
aware of ___ medical condition including meds, reassuring of no 
willful neglect, though he expresses concerns that pt's needs at 
present are too great to be met with current arrangement. 
- SW--appreciate evaluation.  Apparently the son ___ has set up 
an adult daycare for the patient at ___  (where the 
patient has been in years past) has just been financially 
approved and they are working with the PCP to complete 
paperwork.
Once the patient goes to adult day care (___), Max will 
rearrange the hours for the PCA and companion which will provide 
more hours of supervision for the patient daily.  

#AF w RVR: pt in 90-100 range at rest though also jumping to 
160s with movement. On Coumadin
- decreased home metop from 50mg to 25mg q day
* Her INR was subtherapeutic. Unclear if she was actually taking 
this medication as prescribed at home (she was sometimes 
refusing her meds inpatient), so have not adjusted the dose on 
discharge but this may very likely need adjustment outpatient. 
She has PCP ___.

#knee pain: OA
- Tylenol scheduled

#reported Hx HF: unclear whether this is true Dx. Med list with 
Lasix at undetermined date in the past. Euvolemic at present. 

#T2DM: glipizide at home; SSI ordered inpatient
- A1c 6.3
- consider holding outpatient glipizide on DC given inconsistent 
diet as outpatient.

#right renal lesion: likely cystic lesion on CT a/p, message to 
PCP for clinical follow up as needed

#dementia: delirium risk

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. GlipiZIDE 2.5 mg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Propylthiouracil 50 mg PO DAILY 
5. amLODIPine 5 mg PO DAILY 
6. Gabapentin 300 mg PO BID 
7. Vitamin D 1000 UNIT PO DAILY 
8. Warfarin 1 mg PO DAILY16 
9. Metoprolol Succinate XL 50 mg PO DAILY 
10. Atorvastatin 80 mg PO QPM 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY 
We decreased the dose because your blood pressure was low. 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1 
2.  Atorvastatin 80 mg PO QPM  
3.  Docusate Sodium 100 mg PO BID  
4.  Gabapentin 300 mg PO BID  
5.  Omeprazole 40 mg PO DAILY  
6.  Propylthiouracil 50 mg PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  
8.  Warfarin 1 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#weakness, lightheadedness
#abdominal pain
#knee pain
#reported history of heart failure
#Atrial fibrillation
#type II diabetes
#right renal lesion

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___, 

You presented to the hospital with feelings of lightheadedness, 
shakiness, and confusion.  This was felt to be due to possibly a 
number of different factors, including some mild dehydration, 
possibly changes in blood pressure, and possible low blood 
sugar.  

(1) For your mild dehydration, he was given some fluids on 
admission.

(2) We are unable to definitively say if your blood sugar was 
low when you are having these episodes, but we did hold your 
home diabetic medication glipizide while you are here just in 
case.  If you are not eating well, but still taking this 
medicine, your blood sugar can become low and cause the 
symptoms.  This medication was also held on discharge, please 
follow-up with your primary care provider to determine if that 
should be resumed.  It can be quite dangerous if your blood 
sugar becomes too low.

(3) It is also possible that your blood pressure drops 
occasionally, especially when you are going from a sitting to 
standing position.  For this reason, we did not give you your 
amlodipine while you are in the hospital, and we did not resume 
this medication upon discharge. We also decreased your home dose 
of Metoprolol because your blood pressure was low.
It is important for you to follow-up with your outpatient doctor 
to determine if this medication is needed long-term.

Thank you for allowing us to participate in your care!
Your ___ Team

 
Followup Instructions:
___